### PR TITLE
[Merged by Bors] - chore(Data/Set/Subset): simplify `image_val_sUnion`

### PR DESCRIPTION
**Pull request by mo271**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Set/Subset.lean [hunk 1]
```diff
@@ -102,9 +102,8 @@ lemma image_val_compl : ↑(Dᶜ) = A \ ↑D := by
 
 @[simp]
 lemma image_val_sUnion : ↑(⋃₀ T) = ⋃₀ { (B : Set α) | B ∈ T} := by
-  -- TODO: missing `image_sUnion` lemma
-  erw [sUnion_image]
-  simp_rw [sUnion_eq_biUnion, image_iUnion]
+  rw [image_sUnion]
+  rfl
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Set/Subset.lean:106]: I think it's better to avoid `rfl` in cases like this:
```suggestion
  rw [image_sUnion, image]
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge
